US08309059B2
In a similar manner, benzo[e]indolium derivatives can be prepared from 1,2,3,4-tetrahydrobenzo[g]quinoline or a suitable derivative to provide 3,4-dihydrobenzo[g]quinolin-1(2H)-amine or the corresponding derivative, Intermediate C, illustrated in Scheme 5.

reactant | benzo[e]indolium | C1=C[NH2+]C=2C=CC3=C(C12)C=CC=C3
reactant | 1,2,3,4-tetrahydrobenzo[g]quinoline | N1CCCC2=CC3=C(C=C12)C=CC=C3 | C13H13N
product | 3,4-dihydrobenzo[g]quinolin-1(2H)-amine | N1(CCCC2=CC3=C(C=C12)C=CC=C3)N | C13H14N2
